US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-piperidone
4.0 g of 4-piperidone hydrochloride, 4.1 g of 3-(chloromethyl)-2-methoxypyridine and 12.6 g of potassium carbonate were suspended in 26 ml of N,N-dimethylformamide, and the mixture was stirred at room temperature for 15 hours. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (ethyl acetate), to give 5.5 g of the title compound as a yellow oil.

reactant | 4-piperidone hydrochloride | 4.0 g | Cl.N1CCC(CC1)=O
reactant | 3-(chloromethyl)-2-methoxypyridine | 4.1 g | ClCC=1C(=NC=CC1)OC | C7H8ClNO
reactant | potassium carbonate | 12.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 26 ml | CN(C=O)C | C3H7NO
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-piperidone | 5.5 g | COC1=NC=CC=C1CN1CCC(CC1)=O | C12H16N2O2
